US04474754
2.54 Grams of Z-Thr-His-NHNH2 was dissolved in 20 ml of dimethylformamide and 4.19 ml of 6N-hydrochloric acid/dioxane, after cooled the mixture to -15° C., then 0.84 ml of isoamyl nitrate was added thereto and stirred for 5 minutes. Then 3.51 ml of triethylamine was added to neutralize the reaction mixture. This reaction mixture was added into 20 ml of a dimethylformamide solution containing the above obtained H-Ser-Leu-Gly-OC2H5 and 0.79 ml of triethylamine, and stirred at 4° C. for 20 hours. After removal of dimethylformamide by distillation, the residue thus obtained was extracted with butanol, the extract was washed with water. The solvent was removed by distillation, and recrystallized from methanol-ethyl acetate to obtain 4.31 g of Z-Thr-His-Ser-Leu-Gly-OC2H5.

reactant | Z-Thr-His-NHNH2 | N([C@@H]([C@H](O)C)C(=O)N[C@@H](CC1=CNC=N1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C18H24N6O5
reactant | hydrochloric acid dioxane | Cl.O1CCOCC1
reactant | isoamyl nitrate | 0.84 ml | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
reactant | triethylamine | 3.51 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.79 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | H-Ser-Leu-Gly-OC2H5 | N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OCC | C13H25N3O5
